### PR TITLE
Generalize relations from seq to monad

### PR DESCRIPTION
**Pull request by dmitromikh**

### CODE REVIEW

File: monad.v [hunk 1]
```diff
@@ -27,22 +27,22 @@ End Exports.
  * for the required subclass of monads.  
  *)
 Module Import Syntax.
-Notation "f ≈> g" := (monmorph f g) (at level 51) : monae_scope.
+Notation "f ≈≈> g" := (monmorph f g) (at level 51) : monae_scope.
```
Comment (eupp) [inline monad.v:30]: I've already changed this thing in a previous PR :) 
My idea was that we do not export `Syntax` module by default, so the `≈>` notation is not available by default. 
The user can export the suitable `Syntax` module and use it locally to denote the morphism between certain class of monads. 
E.g. if the use is working with usual monads it does the following
```
Import MonadMorphism.Syntax.
```

If it is working with non-det monads it does:
```
Import NDMonadMorphism.Syntax.
```

This way we do not need to invent a new notation for each class of monad morphisms. 

Also, I propose to use `≈>` instead of `≈≈>`, by analogy with `~>` notation for natural transformations from `monae`.

File: relations.v [hunk 2]
```diff
@@ -38,29 +39,74 @@ Set Equations Transparent.
...
 Section Strictify.
 
-Context {T : eqType}.
-Implicit Type (f : T -> seq T).
+Context (T : eqType).
+Variable  (M : nondetMonad) (η : M ≈> ModelNondet.list).
+Implicit Type (f : T -> M T).
+
+Definition mfilter (s : M T) (p : pred T) :=
+  s >>= (fun a => if p a then Ret a else Fail).
```
Comment (eupp) [inline relations.v:56]: Let's move theory of `mfilter` into `monad.v`

File: relations.v [hunk 3]
```diff
@@ -38,29 +39,74 @@ Set Equations Transparent.
...
+  have: η T (Ret x) = (η T \o Ret) x.
+  { done. }
+  move=> ->. by rewrite ret_morph /Ret /= /ModelMonad.ListMonad.ret_component.
+Qed.
+
+Lemma mem_fail :
+  η T Fail = [::].
+Proof. by rewrite fail_morph. Qed.
+
+Lemma mem_ret_eq (x y : T) :
```
Comment (eupp) [inline relations.v:70]: perhaps `mem_ret_in` would be a better name?

File: relations.v [hunk 4]
```diff
@@ -38,29 +39,74 @@ Set Equations Transparent.
...
+  move=> ->. rewrite ret_morph in_cons in_nil. by case: (x == y).
+Qed.
+
+Lemma mem_mfilter (p : pred T) (x : T) (s : M T) :
+  (x \in η T (mfilter s p)) = p x && (x \in η T s).
+Proof.
+  rewrite /mfilter bind_morph /Bind.
+  rewrite /ModelNondet.list /= /Actm /=.
+  rewrite /monad_lib.Monad_of_ret_bind.Map /ModelMonad.ListMonad.bind.
+  rewrite /ModelMonad.ListMonad.ret /ModelMonad.ListMonad.ret_component /=.
```
Comment (eupp) [inline relations.v:84]: Perhaps you can import locally the required modules in order to refer to shorter names.

File: relations.v [hunk 5]
```diff
@@ -71,67 +117,88 @@ Section WfRTClosure.
...
 Definition rt_closure : rel T := 
-  fun x y => x \in wsuffix y. 
-
+  fun x y => x \in η T (wsuffix y).
+  
 (* ************************************************************************** *)
 (*       THEORY                                                               *)
 (* ************************************************************************** *)
 
+Lemma mem_alt (x : T) (s1 s2 : M T) :
```
Comment (eupp) [inline relations.v:160]: `mem_alt_in` ?

File: relations.v [hunk 6]
```diff
@@ -71,67 +117,88 @@ Section WfRTClosure.
...
+Proof.
+  apply /(iffP idP).
+  { rewrite bind_morph => /flatten_mapP.
+    move => [] l /flatten_mapP [] x xs.
+    rewrite mem_seq1 => /eqP -> ymx.
+    by exists x. }
+  move => [] x xs ymx. rewrite bind_morph.
+  apply /flatten_mapP. exists (η T (m x)) => //.
+  apply /flatten_mapP. exists x => //. exact: mem_head.
+Qed.
```
Comment (eupp) [inline relations.v:175]: I think it would be better to move this and previous lemma into `monad.v`

File: relations.v [hunk 7]
```diff
@@ -153,21 +220,24 @@ Proof.
   apply /t_closureP /t_trans; eauto. 
 Qed.
 
+Ltac list_altP := rewrite /Alt /= /monae_lib.curry /= mem_cat.
```
Comment (eupp) [inline relations.v:223]: Why `Ltac`?

File: relations.v [hunk 8]
```diff
@@ -247,11 +318,43 @@ Proof.
   by apply/equivsP; rewrite -map_comp -{1}(val_seq_in (f _)) -eq_in_map.
 Qed.
 
+Definition id_nattrans : ModelNondet.list ~> ModelNondet.list :=
```
Comment (eupp) [inline relations.v:321]: Let's move it to `monad.v`. 
Besides that, could we make it a canonical instance somehow?
So that we would be able to infer it automatically instead of passing explicitly. 
@anton-trunov

**Review by eupp — CHANGES_REQUESTED** [review]

File: monad.v (hunk 1 above)
Comment (dmitromikh) [reply monad.v:30]: OK

File: relations.v (hunk 2 above)
Comment (dmitromikh) [reply relations.v:56]: OK

File: relations.v (hunk 3 above)
Comment (dmitromikh) [reply relations.v:70]: Yeah, it's better

File: relations.v (hunk 5 above)
Comment (dmitromikh) [reply relations.v:160]: OK

File: relations.v (hunk 6 above)
Comment (dmitromikh) [reply relations.v:175]: OK

File: relations.v (hunk 7 above)
Comment (dmitromikh) [reply relations.v:223]: Ah, actually, that is unnecessary, I'll remove it

**Comment by eupp** [comment]
I've made minor changes. 
In the end, I've left names `mem_ret`/`mem_alt` etc for `\in` lemmas about monads. 
I've also rearranged lemmas a bit so that logically connected lemmas are kept together.

**Review by eupp — APPROVED** [review]
